US07504401B2
To a 3-neck round bottom flask were added 1.0 grams (2.98 mmol) [3-bromo-5-(pyridine-3-carbonyl)-phenyl]-carbamic acid methyl ester, 0.30 g (2.98 mmol) potassium acetate, 0.757 g (2.98 mmol) bis(pinacolato)diboron, 0.100 mg (0.14 mmol) Pd(dppf)Cl2.CH2Cl2 complex and 10 mL dioxane. Argon was bubbled through the reaction mixture for 30 min; then it was heated to 100° C. and held overnight. The reaction mixture was cooled and filtered. The volatiles were removed under reduced pressure and the resulting material was chromatographed on silica gel eluting with 2% methanol/chloroform to afford [3-(pyridine-3-carbonyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-carbamic acid methyl ester.

reactant | [3-bromo-5-(pyridine-3-carbonyl)-phenyl]-carbamic acid methyl ester | 2.98 mmol, 1.0 grams | COC(NC1=CC(=CC(=C1)C(=O)C=1C=NC=CC1)Br)=O | C14H11BrN2O3
reactant | potassium acetate | 2.98 mmol, 0.30 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 2.98 mmol, 0.757 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
catalyst | Pd(dppf)Cl2 | 0.14 mmol, 0.100 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | [3-(pyridine-3-carbonyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-carbamic acid methyl ester | COC(NC1=CC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C(=O)C=1C=NC=CC1)=O | C20H23BN2O5
